US04187216
5.5 g (0.0149 g) of N-benzyloxycarbonyl-L-alanyl-L-alanine anilide were dissolved in 30 ml of 4-N hydrogen bromide in acetic acid and the solution was stirred at room temperature for 1 hour. 300 ml of dry ether were then added. A white solid separated out and was allowed to settle. The solution was decanted off and the solid washed with two 150 ml portions of ether. Recrystallisation of the solid from methanol/ethyl acetate yielded 4.1 g (88%) of L-alanyl-L-alanine anilide hydrobromide.

reactant | N-benzyloxycarbonyl-L-alanyl-L-alanine anilide | 5.5 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)NC1=CC=CC=C1 | C20H23N3O4
reactant | ether | 300 ml | CCOCC | C4H10O
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | L-alanyl-L-alanine anilide hydrobromide | 4.1 g, 88% | Br.N[C@@H](C)C(=O)N[C@@H](C)C(=O)NC1=CC=CC=C1 | InChI=1S/C12H17N3O2.BrH/c1-8(13)11(16)14-9(2)12(17)15-10-6-4-3-5-7-10;/h3-9H,13H2,1-2H3,(H,14,16)(H,15,17);1H/t8-,9-;/m0./s1
